US04424160
50 parts of crystalline boric acid are dissolved in 1,000 parts of 30% strength oleum. 100 parts of 1,8-dinitroanthraquinone (analysis: 97.6% of 1,8-DNA; 0.8% of 1,5-DNA) are then added at room temperature with stirring. 15 parts of pulverulent sulphur are then added in portions at a temperature of 50° C. in the course of 45 minutes. The reaction mixture is further stirred for 1 hour at 50° C., cooled down to room temperature and then diluted with cooling by means of 211 parts of 78% strength sulphuric acid and then with 525 parts of water. The precipitated reaction product is filtered off with suction and washed with 133 parts of 60% strength sulphuric acid and thereafter with warm water until neutral. 64.5 parts of 1-hydroxy-4-amino-5-nitroanthraquinone are obtained which after recrystallisation from N-methylpyrrolidone melts at 270° C.

reactant | boric acid | B(O)(O)O | BH3O3
reactant | 1,8-dinitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
reactant | sulphur | [S] | S
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | oleum | OS(=O)(=O)O.O=S(=O)=O
solvent | water | O | H2O
product | 1-hydroxy-4-amino-5-nitroanthraquinone | OC1=CC=C(C=2C(C3=C(C=CC=C3C(C12)=O)[N+](=O)[O-])=O)N | C14H8N2O5
